US05292749
Methyl (RS)-2-phenyl-4-(1H-tetrazol-5-yl)butanoate
Methyl (RS)-4-cyano-2-phenylbutanoate (see Preparation 21) (1.8 g) and tri-n-butyltin azide (3.23 g were mixed and heated at 160° C. for 3 hours, dissolved in methanol (100 ml), treated by the addition of hydrogen chloride gas for 10 minutes and left for 18 hours. Evaporation gave a residue which was triturated three times with diisopropyl ether then partitioned between 10% aqueous sodium carbonate and ethyl acetate. The aqueous later was acidifed with 2 M hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over magnesium sulphate and evaporated to give the title compound (1.34 g, 61%) as a brown oil.

reactant | Methyl (RS)-4-cyano-2-phenylbutanoate | 1.8 g | C(#N)CCC(C(=O)OC)C1=CC=CC=C1 | C12H13NO2
reactant | tri-n-butyltin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | Methyl (RS)-2-phenyl-4-(1H-tetrazol-5-yl)butanoate | 1.34 g, 61% | C1(=CC=CC=C1)C(C(=O)OC)CCC1=NN=NN1 | C12H14N4O2
